US07592457B2
3-(4-hydroxy-3-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 1, using a 2-[2-(4-hydroxy-3-methoxy-phenyl)-propionyl amino]-benzoic acid methyl ester (1.00 g, 3.04 mmol) and LiHMDS (9.12 mmol, 1M solution in THF). After normal workup, the objective compound (0.46 g, 51%) was obtained as yellow solid by a flash column chromatography (n-hexane:EtOAc=5:1): 1H NMR (200 MHz, CDCl3) δ 1.81 (s, 3H, CH3), 3.83 (s, 3H, OCH3), 5.55 (br s, 1H, OH), 6.76-6.87 (m, 4H, ArH), 7.12 (t, J=7.73 Hz, 1H, ArH), 7.49 (t, J=7.32 Hz, 1H, ArH), 7.90 (d, J=8.12 Hz, 1H, ArH), 8.17 (br s, 1H, NH); m.p. 168-169° C.; MS(EI) m/e 297 [M+], 178, 150; HRMS m/e cacld. for C17H15N1O4 297.1002, found 297.0999.

reactant | 2-[2-(4-hydroxy-3-methoxy-phenyl)-propionyl amino]-benzoic acid methyl ester | 3.04 mmol, 1.00 g | COC(C1=C(C=CC=C1)NC(C(C)C1=CC(=C(C=C1)O)OC)=O)=O | C18H19NO5
reactant | LiHMDS | 9.12 mmol, 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-hydroxy-3-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione | 0.46 g, 51% | OC1=C(C=C(C=C1)C1(C(NC2=CC=CC=C2C1=O)=O)C)OC | C17H15NO4
